US05262390
By the method of Example 1, Step J, 9.21 g (0.044 mole) of methyl (2-hydroxymethyl-5-methylphenoxy)acetate was reacted with 7.40 g (0.062 mole) of thionyl chloride and 5 drops of pyridine in 50 mL of methylene chloride, yielding 5.57 g of methyl (2-chloromethyl-5-methylphenoxy)acetate as an orange liquid.

reactant | methyl (2-hydroxymethyl-5-methylphenoxy)acetate | 0.044 mole, 9.21 g | OCC1=C(OCC(=O)OC)C=C(C=C1)C | C11H14O4
reactant | thionyl chloride | 0.062 mole, 7.40 g | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 5 drops | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl (2-chloromethyl-5-methylphenoxy)acetate | 5.57 g | ClCC1=C(OCC(=O)OC)C=C(C=C1)C | C11H13ClO3
